US08071624B2
A mixture of tert-butyl (cyclopropylmethyl)(trans-4-hydroxycyclohexyl)carbamate (0.857 g, 3.2 mmol) in a solution of methylene chloride (6 mL) and 4.0 M of hydrogen chloride in 1,4-dioxane (3 mL) was stirred at r.t. 2 hours. Concentration yielded 0.658 g of trans-4-[(cyclopropylmethyl)amino]cyclohexanol hydrochloride (100%).

reactant | tert-butyl (cyclopropylmethyl)(trans-4-hydroxycyclohexyl)carbamate | 3.2 mmol, 0.857 g | C1(CC1)CN(C(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)O | C15H27NO3
reactant | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | trans-4-[(cyclopropylmethyl)amino]cyclohexanol hydrochloride | 0.658 g, 100% | Cl.C1(CC1)CN[C@@H]1CC[C@H](CC1)O | InChI=1S/C10H19NO.ClH/c12-10-5-3-9(4-6-10)11-7-8-1-2-8;/h8-12H,1-7H2;1H/t9-,10-;
